US04732902
A mixture of 2,2-dimethyl-4-[(1-oxodecyl)oxy]butanoic acid phenylmethyl ester (33.9 g), 20% Pd(OH)2 /C (2.0 g), and ethanol (150 mL) was hydrogenated at 50 psi at room temperature for 2 hours, filtered to remove the catalyst, and concentrated to afford 24.9 g (96.5%) of 2,2-dimethyl-4-[(1-oxodecyl)oxy]butanoic acid as a colorless oil. A portion was evaporatively distilled to afford an analytical sample: bp 190° C./0.02 mm; IR (CHC3) 1733 (C=O) and 1704 cm-1 (C=O); NMR (CDCl3) δ 0.87 (t, 3, CH3), 1.60-1.24 (m, 20, CH2 and CH3), 1.93 (t, 2, CH2), 2.25 (t, 2, CH2), 4.14 (t, 2, CH2); MS m/e 268 (M+ --H2O).

reactant | 2,2-dimethyl-4-[(1-oxodecyl)oxy]butanoic acid phenylmethyl ester | 33.9 g | C1(=CC=CC=C1)COC(C(CCOC(CCCCCCCCC)=O)(C)C)=O | C23H36O4
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 2,2-dimethyl-4-[(1-oxodecyl)oxy]butanoic acid | 24.9 g, 96.5% | CC(C(=O)O)(CCOC(CCCCCCCCC)=O)C | C16H30O4
